US04272533
To a solution of 310 g of 2,3-dimethyl-1-phenylindole in 170 ml 40% formaldehyde and 1.6 liters acetic acid there is added dropwise 175 ml pyrrolidine at such a rate that the mixture temperature is 55° to 60°. When the addition is complete the mixture is stirred for 15 minutes and treated at 55° to 60° for 2 hours. 1.6 liters of water are added. The mixture is extracted with toluene (five times 1.6 liters), and the extracts are carefully washed with two 1.6 liter portions of 2 N NaOH. The solution is dried with 100 g of magnesium sulphate and the solvent removed to give 3-methyl-1-phenyl-2-[2-(1-pyrrolidinyl)ethyl]indole as a brown oil which is treated with 7.5 liters of petroleum ether (B.pt. 90°-120°) and then filtered. The petroleum ether solution of 3-methyl-1-phenyl-2-[2(1-pyrrolidinyl)ethyl]indole is treated with hydrogen chloride gas to yield the hydrochloride salt. M.pt. 213°-216°. The free base is set free from the hydrochloride in toluene using 2 N NaOH and obtained as an oil.

reactant | 2,3-dimethyl-1-phenylindole | 310 g | CC=1N(C2=CC=CC=C2C1C)C1=CC=CC=C1 | C16H15N
reactant | pyrrolidine | 175 ml | N1CCCC1 | C4H9N
reactant | water | 1.6 liters | O | H2O
reactant | formaldehyde | 170 ml | C=O | CH2O
solvent | acetic acid | 1.6 liters | C(C)(=O)O | C2H4O2
product | 3-methyl-1-phenyl-2-[2-(1-pyrrolidinyl)ethyl]indole | CC1=C(N(C2=CC=CC=C12)C1=CC=CC=C1)CCN1CCCC1 | C21H24N2
